US08471005B2
3-{3-[7-(6-Methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-1,4-dimethyl-piperazin-2-one was prepared from 7-(6-methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-ol and 3-(3-amino-phenyl)-1,4-dimethyl-piperazin-2-one in an analogous manner to Example 1052a. Product isolated as a brown foam (56 mg, 42%). LCMS (m/e) 444 (M+H); 1H-NMR (CDCl3, 400 MHz) δ 8.80-8.74 (m, 1H), 8.69 (s, 1H), 8.43 (dd, 1H, J=2.2 and 8.7 Hz), 7.66 (d, 1H, J=8.1 Hz), 7.51 (s, 1H), 7.35-7.27 (m, 1H), 7.06 (d, 1H, J=7.6 Hz), 6.96-6.89 (m, 2H), 6.87 (d, 1H, J=8.7 Hz), 6.82 (d, 1H, J=4.78 Hz), 4.01 (s, 3H), 3.75-3.63 (m, 2H), 3.25-3.16 (m, 1H), 3.07-2.96 (m, 1H), 2.98 (s, 3H), 2.74-2.63 (m, 1H), 2.21 (s, 3H).

reactant | 7-(6-methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-ol | COC1=CC=C(C=N1)C1=CC=C2C=NC(=NN21)O | C12H10N4O2
reactant | 3-(3-amino-phenyl)-1,4-dimethyl-piperazin-2-one | NC=1C=C(C=CC1)C1C(N(CCN1C)C)=O | C12H17N3O
product | 3-{3-[7-(6-Methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-1,4-dimethyl-piperazin-2-one | COC1=CC=C(C=N1)C1=CC=C2C=NC(=NN21)NC=2C=C(C=CC2)C2C(N(CCN2C)C)=O | C24H25N7O2
